US04404301
Preparation of bis(1,2,2,6,6-pentamethyl-4-piperidyl)tetrahydrophthalate/bis(1,2,2,6,6-pentamethyl-4-piperidyl)fumarate copolymer
Bis(1,2,2,6,6-pentamethyl-4-piperidyl)tetrahydrophthalate 1.3 g (1/370 mole), bis(1,2,2,6,6-pentamethyl-4-piperidyl)fumarate 2.1 g (1/200 mole) and dicumyl peroxide 0.034 g were heated and stirred at 150° C. for eight hours, and then cooled to obtain a pale yellow solid.

reactant | Bis(1,2,2,6,6-pentamethyl-4-piperidyl)tetrahydrophthalate | 370 mole, 1.3 g | CN1C(CC(CC1(C)C)OC(C1C(C(=O)OC2CC(N(C(C2)(C)C)C)(C)C)CCC=C1)=O)(C)C | C28H48N2O4
reactant | bis(1,2,2,6,6-pentamethyl-4-piperidyl)fumarate | 200 mole, 2.1 g | CN1C(CC(CC1(C)C)\C(=C(/C(=O)[O-])\C1CC(N(C(C1)(C)C)C)(C)C)\C(=O)[O-])(C)C
reactant | dicumyl peroxide | 0.034 g | C(C)(C)(C1=CC=CC=C1)OOC(C)(C)C1=CC=CC=C1 | C18H22O2
product | bis(1,2,2,6,6-pentamethyl-4-piperidyl)tetrahydrophthalate bis(1,2,2,6,6-pentamethyl-4-piperidyl)fumarate | CN1C(CC(CC1(C)C)OC(C1C(C(=O)OC2CC(N(C(C2)(C)C)C)(C)C)CCC=C1)=O)(C)C.CN1C(CC(CC1(C)C)\C(=C(/C(=O)[O-])\C1CC(N(C(C1)(C)C)C)(C)C)\C(=O)[O-])(C)C | InChI=1S/C28H48N2O4.C24H42N2O4/c1-25(2)15-19(16-26(3,4)29(25)9)33-23(31)21-13-11-12-14-22(21)24(32)34-20-17-27(5,6)30(10)28(7,8)18-20;1-21(2)11-15(12-22(3,4)25(21)9)17(19(27)28)18(20(29)30)16-13-23(5,6)26(10)24(7,8)14-16/h11,13,19-22H,12,14-18H2,1-10H3;15-16H,11-14H2,1-10H3,(H,27,28)(H,29,30)/p-2/b;18-17+
